US04846873
(1,1-Dimethylethoxy)acetyl chloride
To a 3-neck 500 ml round-bottom flask equipped with a magnetic stirrer, reflux condenser and addition funnel was added (1,1-dimethylethoxy)acetic acid (24.00 g, 0.182 moles) and 300 ml of toluene under nitrogen. Oxalyl chloride (46.10 g, 0.363 moles) was then added dropwise and to this mixture was added N,N-dimethylformamide (0.25 g, 0.003 moles). This solution was heated at 30°-40° C. for 5 hours and then concentrated in vacuo to give 14.5 g of the product as a brown oil.

reactant | (1,1-dimethylethoxy)acetic acid | 0.182 moles, 24.00 g | CC(C)(OCC(=O)O)C | C6H12O3
reactant | Oxalyl chloride | 0.363 moles, 46.10 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | 0.003 moles, 0.25 g | CN(C=O)C | C3H7NO
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | (1,1-Dimethylethoxy)acetyl chloride | 14.5 g | CC(C)(OCC(=O)Cl)C | C6H11ClO2
